US07632837B2
1I. Preparation of 6-(2-chlorophenyl)-7-(4-chlorophenyl)-N-cyclohexyl-[1,2,4]triazolo [4,3-b]pyridazin-3-amine
A suspension of 3-chloro-6-(2-chlorophenyl)-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazine (38 mg, 0.1 mmol) in cyclohexylamine (0.5 mL) was stirred at 100° C. for 16 h. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. The residue was diluted with EtOAc (30 mL), washed with H2O, saturated aqueous NaCl, dried (Na2SO4), filtered and concentrated under reduced pressure. The crude product was purified using a silica gel cartridge (12 g) eluting with a gradient of EtOAc (40-100%) in hexanes to afford 18 mg (41%) of the title compound as a yellow powder. HPLC/MS (method A): retention time=3.58 min, (M+H)+=438.1. 1H NMR (CDCl3, 400 MHz): δ 7.87 (s, 1H), 7.35-7.43 (m, 3H), 7.30-7.33 (m, 1H), 7.20 (d, J=8.56 Hz, 2H), 7.04 (d, J=8.31Hz, 2H), 4.83 (s, 1H), 3.98 (s, 1H), 2.22-2.25 (m, 2H), 1.79 (dd, J=9.78, 3.67 Hz, 2H), 1.63-1.72 (m, 1H), 1.41-1.52 (m, 2H), 1.27-1.39 (m, 2H), 1.21-1.26 (m, 1H).

reactant | 3-chloro-6-(2-chlorophenyl)-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazine | 0.1 mmol, 38 mg | ClC1=NN=C2N1N=C(C(=C2)C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl | C17H9Cl3N4
reactant | cyclohexylamine | 0.5 mL | C1(CCCCC1)N | C6H13N
product | 6-(2-chlorophenyl)-7-(4-chlorophenyl)-N-cyclohexyl-[1,2,4]triazolo [4,3-b]pyridazin-3-amine | 18 mg, 41% | ClC1=C(C=CC=C1)C=1C(=CC=2N(N1)C(=NN2)NC2CCCCC2)C2=CC=C(C=C2)Cl | C23H21Cl2N5
